US08530675B2
Treatment of tetrachlorophthalic anhydride (5 g, 17.49 mmol) and 2-chlororesorcinol (7.58 g, 41.98 mmol) according to the procedure described in Example 1, Step 1, provided 9.3 g of the crude product. Suspension of 8 g of the crude 9.3 g in DMF:water (1:1), followed by filtration provided 8.65 g (16.05 mmol, 91.7% AUC yield) of 4,4′,5,5′,6,7-hexachloro-3′,6′-dihydroxy-3H-spiro[isobenzofuran-1,9′-xanthen]-3-one that was isolated as an orange solid. 1H NMR (300 MHz; DMSO d6) δ 11.09 (S, 2H), 7.03 (d, J=9 Hz, 2H), 6.81 (d, J=8.7 Hz, 2H).

reactant | tetrachlorophthalic anhydride | 17.49 mmol, 5 g | ClC=1C(=C(C(=C2C1C(=O)OC2=O)Cl)Cl)Cl | C8Cl4O3
reactant | 2-chlororesorcinol | 41.98 mmol, 7.58 g | ClC1=C(O)C=CC=C1O | C6H5ClO2
solvent | DMF water | CN(C)C=O.O
product | 4,4′,5,5′,6,7-hexachloro-3′,6′-dihydroxy-3H-spiro[isobenzofuran-1,9′-xanthen]-3-one | 16.05 mmol, 8.65 g, 91.7% | ClC1=C2C(OC3(C4=CC=C(C(=C4OC=4C(=C(C=CC34)O)Cl)Cl)O)C2=C(C(=C1Cl)Cl)Cl)=O | C20H6Cl6O5
